US09388161B2
A mixture of 4-[[(2S)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yl]oxy]benzamide (0.080 g, 0.20 mmol), tert-butyl 4-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (0.090 g, 0.24 mmol), potassium carbonate (0.082 g, 0.59 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.016 g, 0.02 mmol) in 1,4-dioxane (20 mL) and water (2 mL) stirred overnight at 100° C. The reaction mixture was cooled to room temperature, filtered through a pad of Celite, and concentrated under vacuum. The residue was purified via preparative thin layer chromatography (eluting with 50% ethyl acetate-petroleum ether) to afford tert-butyl 4-[4-[(2S)-1-acetyl-5-(4-carbamoylphenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl]-1H-pyrazol-1-yl]piperidine-1-carboxylate (0.080 g, 70%) as a yellow oil. MS (ESI, pos. ion) m/z 574 [M+H]+.

reactant | 4-[[(2S)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydroquinolin-5-yl]oxy]benzamide | 0.20 mmol, 0.080 g | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)Br)OC1=CC=C(C(=O)N)C=C1)C | C19H19BrN2O3
reactant | tert-butyl 4-[4-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.24 mmol, 0.090 g | CC1(C(OB(O1)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)(C)C)C | C19H32BN3O4
reactant | potassium carbonate | 0.59 mmol, 0.082 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.02 mmol, 0.016 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | tert-butyl 4-[4-[(2S)-1-acetyl-5-(4-carbamoylphenoxy)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl]-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.080 g, 70% | C(C)(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=C(C=C1)C(N)=O)C | C32H39N5O5
